US07919498B2
Prepared according to Procedure J using 1-((5-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.060 g, 0.110 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.032 g, 0.164 mmol, 1.5 eq), tetrakis(triphenylphosphine)palladium (0.006 g, 10 mol %), and sodium carbonate (2M aq. Sol., 6 eq) in DMF (0.2M)). 1-((5-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-3-(1-methyl-1H-pyrazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine was obtained after purification as a white solid. 1H-NMR (MeOD) δ ppm 8.56 (s, 1H), 8.01-8.05 (m, 3H), 7.87 (d, 1H, J=5.0), 7.80-7.83 (m, 1H), 7.65 (s, 1H), 7.47 (d, 1H, J=5.0), 7.34 (t, 1H, J=5.0), 7.24 (t, 1H, J=5.0 Hz), 7.15 (d, 1H), 5.63 (s, 2H), 3.89 (s, 3H), Mass Spectrum (ESI) m/e=502 (M+1).

reactant | 1-((5-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.110 mmol, 0.060 g | ClC1=C2C=C(C(=NC2=CC=C1)C1=C(C=CC=C1)Cl)CN1N=C(C=2C1=NC=NC2N)I | C21H13Cl2IN6
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.164 mmol, 0.032 g, 1.5 eq | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | sodium carbonate | 2M, 6 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 0.2M | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.006 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-((5-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-3-(1-methyl-1H-pyrazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClC1=C2C=C(C(=NC2=CC=C1)C1=C(C=CC=C1)Cl)CN1N=C(C=2C1=NC=NC2N)C=2C=NN(C2)C | C25H18Cl2N8
